US04665056
516 mg of 1-methyl-L-4,5-dihydroorotic acid and 345 mg of N-hydroxysuccinimide are dissolved in 9 ml of dimethylformamide, and 680 mg of dicyclohexylcarbodiimide are added thereto at 0° to 5° C. The mixture is stirred at the same temperature for 40 minutes and at room temperature for 80 minutes. 1.6 g of Nim -tosyl-L-histidyl-L-prolinamide trifluoroacetate (Bull. Chem. Soc. Jap., 49, 1595(1976)) and 0.5 ml of triethylamine added to the mixture and stirred at 10° C. for one day. After the reaction, the mixture is concentrated under reduced pressure, and the residue is dissolved in 30 ml of chloroform. Insoluble materials are filtered off, and the filtrate is washed with water and dried. After the mixture is concentrated under reduced pressure, the residue is purified by silica gel column chlomatography (solvent; chloroform:ethyl acetate:methanol=5:4:2). whereby 1.2 g of (1-methyl-L-4,5-dihydroorotyl)-nim -tosyl-L-histidyl-L-prolinamide are obtained as powder.

reactant | 1-methyl-L-4,5-dihydroorotic acid | 516 mg | CN1C(=O)C[C@H](NC1=O)C(=O)O | C6H8N2O4
reactant | N-hydroxysuccinimide | 345 mg | ON1C(CCC1=O)=O | C4H5NO3
reactant | dicyclohexylcarbodiimide | 680 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | tosyl-L-histidyl-L-prolinamide trifluoroacetate | FC(C(=O)O)(F)F.S(=O)(=O)(C1=CC=C(C)C=C1)N[C@@H](CC1=CNC=N1)C(=O)N1[C@H](C(=O)N)CCC1
solvent | dimethylformamide | 9 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
product | tosyl-L-histidyl-L-prolinamide | S(=O)(=O)(C1=CC=C(C)C=C1)N[C@@H](CC1=CNC=N1)C(=O)N1[C@H](C(=O)N)CCC1 | C18H23N5O4S
